US06147088
Step 2B Cyclopropanecarboxylic acid [7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-amide
A solution of 2-{2-[7-chloro-6-(cyclopropanecarbonylamino)-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (80 mg in a mixture of 8 mL trifluoroacetic acid and 0.03 mL anisole) was stirred at room temperature for 1 hour. The mixture was then concentrated in vacuo, resolvated in methylene chloride and washed with saturated sodium bicarbonate. The concentrated organics were purified by flash chromatography on silica gel (methylene chloride:methanol:ammonium hydroxide, 94:3:1) to give the title compound (52 mg). MASS: 494 (M+H)

reactant | 2-{2-[7-chloro-6-(cyclopropanecarbonylamino)-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)C1CC1)Cl)=O)C1=CC(=CC(=C1)C)C | C33H40ClN3O5
solvent | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 0.03 mL | C1(=CC=CC=C1)OC | C7H8O
product | Cyclopropanecarboxylic acid [7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-amide | 52 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OCCC1NCCCC1)NC(=O)C1CC1 | C28H32ClN3O3
